US07262212B2
A mixture of 2-chloro-4-nitro-1H-imidazole (1.3 g, 8.78 mmol), 5-phenyl-3-(2-methyloxiran-2-yl-methyl)-3H-benzoxazol-2-one (2.47 g, 8.78 mmol), sodium acetate (792 mg, 9.66 mmol) and ethanol (30 ml) was stirred under reflux for 10 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, and the resulting solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) to afford 5-(2-chloro-4-nitroimidazol-1-ylmethyl)-3-(4-hydroxybiphenyl-3-yl)-5-methyloxazolidin-2-one (1.82 g, yield 61%) as a white powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 8.78 mmol, 1.3 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 5-phenyl-3-(2-methyloxiran-2-yl-methyl)-3H-benzoxazol-2-one | 8.78 mmol, 2.47 g | C1(=CC=CC=C1)C=1C=CC2=C(N(C(O2)=O)CC2(OC2)C)C1 | C17H15NO3
reactant | sodium acetate | 9.66 mmol, 792 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-(2-chloro-4-nitroimidazol-1-ylmethyl)-3-(4-hydroxybiphenyl-3-yl)-5-methyloxazolidin-2-one | 1.82 g, yield 61% | ClC=1N(C=C(N1)[N+](=O)[O-])CC1(CN(C(O1)=O)C=1C=C(C=CC1O)C1=CC=CC=C1)C | C20H17ClN4O5
